Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This patient presents to the emergency room today after being 
involved in an MVC. Per EMS report patient was involved in a 
high-speed motor vehicle accident today where the airbags were 
deployed. She needed to be executed from the car. Was noted to 
be loss of consciousness at the site. She does state that the
airbags were deployed and does not recall much of the accident. 
On evaluation patients primary complaint is of left lower 
extremity pain.
 
Past Medical History:
PMH: Chronic Back Pain on home narcotics
PSH: C-Section, R Oophorectomy
 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
GEN: NAD, anxious
HEENT: NCAT, EOMI, no scleral icterus
CV: RRR
RESP: no respiratory distress, breathing comfortably on room air
GI: soft, non-TTP, no R/G/D
EXT: WWP, no peripheral edema
 
Pertinent Results:
___ 05:30AM BLOOD WBC-8.4 RBC-3.78* Hgb-12.2 Hct-36.4 
MCV-96 MCH-32.3* MCHC-33.5 RDW-12.7 RDWSD-44.3 Plt ___
___ 05:30AM BLOOD Glucose-89 UreaN-12 Creat-0.6 Na-140 
K-3.8 Cl-108 HCO3-20* AnGap-16
___ 05:30AM BLOOD Phos-2.8 Mg-2.2
___ 01:29PM BLOOD Glucose-82 Lactate-2.2* Na-138 K-4.8 
Cl-107
___ 01:29PM BLOOD Hgb-14.5 calcHCT-44 O2 Sat-92 COHgb-6* 
MetHgb-0
___ 01:29PM BLOOD freeCa-0.92*

___: TRAUMA CXR AND PELVIS XR
1. No acute cardiopulmonary process. 
2. No acute fracture or dislocation in the pelvis. 

___: CT C-SPINE
No acute fracture or traumatic malalignment.

___: CT HEAD
No acute intracranial abnormality or acute fracture.

___: L FEMUR XR
No acute fracture or dislocation.

___: L ELBOW XR
Minimal cortical irregularity involving the coronoid process of 
the ulna 
suspicious for a nondisplaced tiny fracture.  No dislocation or 
joint 
effusion. 
 
Brief Hospital Course:
Following initial imaging in the ED, the patient was found too 
have no definitive injuries on her pan-scan or XRays. There was 
a question of a tiny fracture along the left Coronoid process on 
Left elbow XRay. The Orthopedic team was consulted and recommend 
WBAT and outpatient follow up in ___ weeks. The patient was 
originally cleared for discharge from the ED but ultimately 
required admission for pain control. She was admitted to the ACS 
service and started on pain medications. Her tertiary survey was 
negative but she was very anxious and teary. She was cleared for 
discharge, at which time her pain was controlled by medications 
by mouth alone, she was tolerating a regular diet, voiding and 
ambulating independently. She will follow up with the Orthopedic 
Surgery team for her left elbow pain and was given the contact 
information for the Concussion clinic at ___.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. TraMADol 100 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0 
2.  Ibuprofen 400 mg PO Q6H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO Q8H:PRN muscle stiffness 
ONLY use this medication if ice packs, heating pads and physical 
therapy are insufficient. 
RX *lorazepam [Ativan] 0.5 mg 1 tablet by mouth twice a day Disp 
#*8 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Concern for Tiny, Non-Displaced Fracture of the Left Coronoid 
Process

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the Acute Care Surgery service at the ___ 
for management of your pain after an MVC. You did not sustain 
any definitive injuries from your accident; there is however a 
question of a very small fracture on your left elbow. You were 
evaluated by the Orthopedic team and there is no intervention 
necessary at this time. You may follow up with the Orthopedic as 
needed as an outpatient for further questions regarding this 
fracture. 

Your pain has improved and you are now ready to return home to 
continue your recovery. We had several discussions about your 
pain control. You should use ice packs intermittently with 
heating pads to help sooth your painful muscles and should 
continue to stretch. This kind of physical therapy with help 
with your recovery.

MEDICATIONS: 
You should be taking scheduled doses of Tylenol, ___ mg three 
times daily. For mild pain, you should be taking Motrin and for 
more severe pain only, you should be taking the Oxycodone as 
prescribed. Your pain should improve day by day and thus, you 
should be requiring less pain medication every day. Use your 
Ativan as prescribed. Any additional prescriptions for 
medications will have to be managed by your PCP. 

You have no activity restrictions from an injury standpoint but 
you should not be working or driving while you are requiring 
narcotic pain medications for pain control. 

Good Luck
 
Followup Instructions:
___